US05475000
A mixture of 1.07 g (0.005 moles) of 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine; 45 ml of dimethylformamide, 0.75 g (0.0055 moles) of anhydrous potassium carbonate and 0.76 ml (0.01 moles) of methyl chloroformate was stirred at 80°-90° C. for 6 hours. The hot reaction mixture was filtered; the crystals precipitating from the filtrate were collected to obtain 0.32 g (23.5%) of the 1:1 ratio mixture of the title compounds, which on crystallization from ethanol gave the 3-(1-methoxycarbonyl-1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine, m.p.: 182°-183° C.

reactant | 3-(1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | 0.005 moles, 1.07 g | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
reactant | potassium carbonate | 0.0055 moles, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroformate | 0.01 moles, 0.76 ml | ClC(=O)OC | C2H3ClO2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(1-methoxycarbonyl-1H-tetrazol-5-yl)-4-oxo-4H-pyrido[1,2-a]pyrimidine | COC(=O)N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C11H8N6O3
